US07105532B2
5-Chloro-2-phenyl-isonicotinonitrile
Tetralds(triphenylphosphine)palladium(0) (167 mg, 0.14 mmol) was added to a stirred solution of phenylboronic acid (423 mg, 3.47 mmol), 2,5-dichloro-isonicotinonitrile (550 mg, 2.89 mmol) and sodium carbonate (3.5 mL of 2M aqueous solution) in dimethoxyethane (7 mL) and ethanol (3.5 mL). The resulting suspension was stirred at reflux for 3 hours, concentrated in vacuo and water (25 mL) added. The aqueous solution was extracted with ethyl acetate (×3) and the combined organic extracts were washed with brine, dried and concentrated. Purification by column chromatography using 2% v/v ethyl acetate in hexane as eluent afforded the title compound as a solid.

reactant | phenylboronic acid | 3.47 mmol, 423 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,5-dichloro-isonicotinonitrile | 2.89 mmol, 550 mg | ClC=1C=C(C#N)C(=CN1)Cl | C6H2Cl2N2
reactant | sodium carbonate | 2M, 3.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 7 mL | C(OC)COC | C4H10O2
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
product | 5-Chloro-2-phenyl-isonicotinonitrile | ClC1=CN=C(C=C1C#N)C1=CC=CC=C1 | C12H7ClN2
